US06476247B1
Bis(cyclopentadienyl)ruthenium (3 g), pivalic anhydride (10 ml), and 85% phosphoric acid (2.0 ml) were placed in a round-bottom flask. In a manner similar to that of Embodiment 1, the mixture was heated at 85° C. for one hour. The formed reaction product was neutralized by use of sodium hydroxide, recrystallized, and subjected to extraction by use of hexane, thereby yielding 2.1 g of (trimethylacetylcyclopentadienyl)cyclopentadienylruthenium.

reactant | Bis(cyclopentadienyl)ruthenium | 3 g | C1(C=CC=C1)[Ru]C1C=CC=C1
reactant | phosphoric acid | 2.0 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pivalic anhydride | 10 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | (trimethylacetylcyclopentadienyl)cyclopentadienylruthenium | 2.1 g | CC(C(=O)C1(C=CC=C1)[Ru]C1C=CC=C1)(C)C | InChI=1S/C10H13O.C5H5.Ru/c1-10(2,3)9(11)8-6-4-5-7-8;1-2-4-5-3-1;/h4-7H,1-3H3;1-5H;
